US07858287B2
Synthesis of 4--vinyloxyethoxyphenyldiphenylsulfonium 2-trifluoromethylbenzenesulfonate
4-Hydroxyphenyldiphenylsulfonium 2-trifluoromethylbenzenesulfonate (8.01 g), potassium carbonate (2.74 g), and N,N,N′,N′-tetramethylethylenediamine (0.18 g) were dissolved in dimethyl sulfoxide (36 g). Subsequently, chloroethyl vinyl ether (5.31 g) was added to the resultant solution, followed by heating to 80° C. and stirring for 15 hours. The resultant reaction mixture was cooled to 30° C. or lower. After removal of solid matter through filtration, water (40 g) was added to the filtrate, and the aqueous layer was washed thrice with hexane (30 g). Dichloromethane (30 g) and water (60 g) were added to the washed aqueous layer, followed by stirring for extraction of a target substance into the dichloromethane layer. The organic layer was repeatedly washed with distilled water until the pH of the separated aqueous layer became 7. The solvent was removed by means of a rotary evaporator, to thereby yield 3.7 g of an oily substance. Through 1H-NMR analysis and ion chromatography, this substance was identified to be 4-vinyloxyethoxyphenyldiphenylsulfonium 2-trifluoromethylbenzenesulfonate.

reactant | 4-Hydroxyphenyldiphenylsulfonium 2-trifluoromethylbenzenesulfonate | 8.01 g | FC(C1=C(C=CC=C1)S(=O)(=O)[O-])(F)F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 2.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.18 g | CN(CCN(C)C)C | C6H16N2
reactant | chloroethyl vinyl ether | 5.31 g | C(=C)OCCCl | C4H7ClO
solvent | dimethyl sulfoxide | 36 g | CS(=O)C | C2H6OS
product | 4--vinyloxyethoxyphenyldiphenylsulfonium 2-trifluoromethylbenzenesulfonate | FC(C1=C(C=CC=C1)S(=O)(=O)[O-])(F)F.C(=C)OCCOC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H21O2S.C7H5F3O3S/c1-2-23-17-18-24-19-13-15-22(16-14-19)25(20-9-5-3-6-10-20)21-11-7-4-8-12-21;8-7(9,10)5-3-1-2-4-6(5)14(11,12)13/h2-16H,1,17-18H2;1-4H,(H,11,12,13)/q+1;/p-1
